US06884821B1
5.0 g of 4-chloro-2-hydroxybenzoic acid was dissolved in 25 ml dimethylformamide, and 14.5 g of ethyl iodide and 12 g of potassium carbonate were added thereto, followed by stirring at 70° C. for 8 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was successively washed with 1N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (2:1), 3.8 g of ethyl 4-chloro-2-ethoxybenzoate was obtained.

reactant | 4-chloro-2-hydroxybenzoic acid | 5.0 g | ClC1=CC(=C(C(=O)O)C=C1)O | C7H5ClO3
reactant | ethyl iodide | 14.5 g | C(C)I | C2H5I
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-chloro-2-ethoxybenzoate | 3.8 g | ClC1=CC(=C(C(=O)OCC)C=C1)OCC | C11H13ClO3
